US04380464
Preparation of 5-amino-2,4-dimethylacetanilide, step (2).
2,4-Dimethyl-5-nitroacetanilide (20.8 g., 100 mmole) in ethanol (400 ml.) was reduced over Raney nickel at about 45 psi of hydrogen gas. After the hydrogen uptake was complete, the mixture was deactivated with elementary sulfur, filtered, and the filtrate was evaporated under reduced pressure to give the product as a solid, m.p. 163°-164° C.

reactant | 2,4-Dimethyl-5-nitroacetanilide | 100 mmole, 20.8 g | CC1=CC(=C(C=C1NC(=O)C)[N+](=O)[O-])C | C10H12N2O3
reactant | hydrogen | [H][H] | H2
reactant | sulfur | [S] | S
solvent | ethanol | 400 ml | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
product | 5-amino-2,4-dimethylacetanilide | CC1=CC(=C(C=C1N)NC(=O)C)C | C10H14N2O
